US07816387B2
3′-Methyl-5-[methyl(methylsulfonyl)amino]biphenyl-3-carboxylic acid
A mixture of methyl 3-bromo-5-[methyl(methylsulfonyl)amino]benzoate obtained in Reference Example 15 38 mg (0.12 mmol), 3-methyl-phenylboronic acid 33 mg (0.24 mmol), cesium carbonate 3.7 mg (0.012 mmol), palladium(II) acetate 1.4 mg (0.0060 mmol), triethylamine 0.056 mL (0.40 mmol) and N,N-dimethylformamide (0.5 mL) was stirred at 100° C. under argon atmosphere for 7 hours. The mixture was diluted with a mixed solvent of ethyl acetate/toluene=1:1 and wished successively with 10% aqueous ammonia and 1N hydrochloric acid. After drying of the mixture on magnesium sulfate, the mixture was concentrated and the residue was purified by a column chromatography on silica gel (eluted with hexane/ethyl acetate=5:13:1). The resulting solid was dissolved in a mixture of 2N aqueous sodium hydroxide solution (0.5 mL), methanol (0.5 mL) and tetrahydrofuran (0.5 mL) and the mixture was stirred at room temperature for 15 hours. The solvent was concentrated and the residue was adjusted by adding 1N hydrochloric acid to pH=3, and the mixture was extracted with ethyl acetate. After drying of the mixture on magnesium sulfate, the solvent was evaporated to give 28 mg (0.355 mmol) of the title compound (yield: 75%).

reactant | methyl 3-bromo-5-[methyl(methylsulfonyl)amino]benzoate | BrC=1C=C(C(=O)OC)C=C(C1)N(S(=O)(=O)C)C | C10H12BrNO4S
reactant | 3-methyl-phenylboronic acid | 0.24 mmol, 33 mg | CC=1C=C(C=CC1)B(O)O | C7H9BO2
reactant | triethylamine | 0.40 mmol, 0.056 mL | C(C)N(CC)CC | C6H15N
reactant | ammonia | N | H3N
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | ethyl acetate toluene | C(C)(=O)OCC.C1(=CC=CC=C1)C
catalyst | palladium(II) acetate | 0.0060 mmol, 1.4 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | cesium carbonate | 0.012 mmol, 3.7 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | N,N-dimethylformamide | 0.5 mL | CN(C=O)C | C3H7NO
product | 3′-Methyl-5-[methyl(methylsulfonyl)amino]biphenyl-3-carboxylic acid | 0.355 mmol, 28 mg, yield: 75% | CC=1C=C(C=CC1)C1=CC(=CC(=C1)N(S(=O)(=O)C)C)C(=O)O | C16H17NO4S
